US04988689
A mixture of 11 parts of ethyl 4-[[5,6-difluoro-1H-benzimidazol-2-yl]-amino]hexahydro-1H-azepine-1-carboxylate, 7.2 parts of 1-(chloromethyl)-4-fluorobenzene, 3.2 parts of sodium carbonate and 90 parts of N,N-dimethylformamide was stirred and heated for 24 hours at 80° C. The reaction mixture was evaporated and the residue was taken up in water. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using trichloromethane as eluent. The pure fractions were collected and the eluent was evaporated, yielding 6 parts (40.6%) of ethyl 4-[[5,6-difluoro-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]hexahydro-1H-azepine-1-carboxylate as a residue; (compound 35).

reactant | ethyl 4-[[5,6-difluoro-1H-benzimidazol-2-yl]-amino]hexahydro-1H-azepine-1-carboxylate | FC1=CC2=C(NC(=N2)NC2CCN(CCC2)C(=O)OCC)C=C1F | C16H20F2N4O2
reactant | 1-(chloromethyl)-4-fluorobenzene | ClCC1=CC=C(C=C1)F | C7H6ClF
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 4-[[5,6-difluoro-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]hexahydro-1H-azepine-1-carboxylate | 40.6% | FC1=CC2=C(N(C(=N2)NC2CCN(CCC2)C(=O)OCC)CC2=CC=C(C=C2)F)C=C1F | C23H25F3N4O2
